US04178442
4-acetamido-7-hydroxy indane (VIId)
A mixture of 25 g of 7-hydroxy-4-amino indane and of 8 ml of acetic anhydride in 400 ml of iced water was stirred for 30 minutes. After filtering, the precipitate was washed with water and ethyl ether and was recrystallized in isopropanol.

reactant | 7-hydroxy-4-amino indane | 25 g | OC=1C=CC(=C2CCCC12)N | C9H11NO
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 400 ml | O | H2O
product | 4-acetamido-7-hydroxy indane | C(C)(=O)NC1=C2CCCC2=C(C=C1)O | C11H13NO2
